************************************************************************
* auCdl Netlist:
* 
* Library Name:  Laygen_AMP
* Top Cell Name: opamp
* View Name:     schematic
* Netlisted on:  Jul 08 14:35:33 2025
************************************************************************

.INCLUDE /tools/PDK/ss28lpp_rf/Device/LNR28LPP_CDS_S00-V1.4.6.1/CDS/oa/cmos28lp/.il/devices.cdl
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM


************************************************************************
* Library Name: Laygen_AMP
* Cell Name:    opamp
* View Name:    schematic
************************************************************************

..SUBCKT opamp VDD VINn VINp VOUT VSS
*.PININFO VDD:B VINn:B VINp:B VOUT:B VSS:B
MN1 net6 net1 VSS VSS nfet w=4.8000u l=0.4500u nf=2.0000 pccrit=0 plorient=1 ngcon=1 + p_la=0u ptwell=0
MN5 VOUT net1 VSS VSS nfet w=7.2000u l=0.4500u nf=3.0000 pccrit=0 plorient=1 ngcon=1 + p_la=0u ptwell=0
MN3 net2 VINp net6 VSS nfet w=4.8000u l=0.4500u nf=2.0000 pccrit=0 plorient=1 ngcon=1 + p_la=0u ptwell=0
MN2 net5 VINn net6 VSS nfet w=4.8000u l=0.4500u nf=2.0000 pccrit=0 plorient=1 ngcon=1 + p_la=0u ptwell=0
MN_Dummy VSS VSS VSS VSS nfet 165.6000u l=0.4500u nf=69.0000 pccrit=0 plorient=1 + ngcon=1 p_la=0u ptwell=0
MN4 net1 net1 VSS VSS nfet w=24.0000u l=0.4500u nf=10.0000 pccrit=0 plorient=1 ngcon=1 + p_la=0u ptwell=0
MP1 net5 net5 VDD VDD pfet w=33.6000u l=0.4500u nf=14.0000 pccrit=0 plorient=1 ngcon=1 + p_la=0u ptwell=0
MP4 net1 net1 net3 VDD pfet w=33.6000u l=0.4500u nf=14.0000 pccrit=0 plorient=1 ngcon=1 + p_la=0u ptwell=0
MP2 net2 net5 VDD VDD pfet w=33.6000u l=0.4500u nf=14.0000 pccrit=0 plorient=1 ngcon=1 + p_la=0u ptwell=0
MP_Dummy VDD VDD VDD VDD pfet w=69.6000u l=0.4500u nf=29.0000u pccrit=0 plorient=1 + ngcon=1 p_la=0u ptwell=0
MP3 net3 net3 VDD VDD pfet w=31.2000u l=0.4500u nf=13.0000 pccrit=0 plorient=1 ngcon=1 + p_la=0u ptwell=0
MP5 VOUT net2 VDD VDD pfet w=7.2000u l=0.4500u nf=3.0000 pccrit=0 plorient=1 ngcon=1 + p_la=0u ptwell=0
CC2 net2 net4 $[ncap] $SUB=VSS l=2.6000u w=2.6000u nf=5.0000 nrep=2.0000u
RR1 VOUT net4 $SUB=VSS $[opppcres] r=4.865k w=1.0000u l=3.5000u pbar=1 s=2.0000 bp=3 ncr=1
.ENDS
